US06057326
A mixture of 4,5-dimethoxyanthranilic acid (1.97 g, 10 mmol) and formamide (1.0 ml, 25 mmol) was heated to 190° C. for 6 h under stirring. Water (5 ml) was added after cooling to approximately 80° C. and the mixture was stored at room temperature for about 3 h. The precipitate was filtered, washed with water and dried to give 6,7-dimethoxyquinazolin4-one in about 18% yield (0.370 g).

reactant | 4,5-dimethoxyanthranilic acid | 10 mmol, 1.97 g | COC=1C=C(C(C(=O)O)=CC1OC)N | C9H11NO4
reactant | formamide | 25 mmol, 1.0 ml | C(=O)N | CH3NO
solvent | Water | 5 ml | O | H2O
product | 6,7-dimethoxyquinazolin4-one | about 18% yield | COC=1C=C2C(NC=NC2=CC1OC)=O | C10H10N2O3
